US04308380
2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (3.0 g) was suspended in dried dichloromethane (50 ml) and then dissolved by adding triethylamine (0.72 g) and dimethylaniline (1.9 g) under cooling at -15° C. To a solution was dropwise added a solution of (2-thienyl)acetyl chloride (2.0 g) in dried dichloromethane (10 ml) under stirring and cooling at the same temperature, and the mixture was stirred for 1.5 hours at the same temperature. After the reaction, the reaction mixture was in turn washed with 5% hydrochloric acid, water, 5% sodium bicarbonate aqueous solution and water and then dried. After the solvent was distilled off, the residue was dissolved in ether, allowed to stand, after which the precipitated crystals were collected by filtration and dried to give crystals of 2,2,2-trichloroethyl 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate (3.2 g), mp 161° to 162° C. (dec.).

reactant | 2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 3.0 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
reactant | triethylamine | 0.72 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaniline | 1.9 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | (2-thienyl)acetyl chloride | 2.0 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,2,2-trichloroethyl 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate | 3.2 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC=2SC=CC2)=O)=O | C16H15Cl3N2O4S2
